US07851473B2
(3) N-(4-Chloro-3-methylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of bis(2,2,2-trichloroethyl) (4-chloro-3-methylisoxazol-5-yl)imidodicarbonate (200 mg, 0.418 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (204 mg, 0.836 mmol), diisopropylethylamine (0.144 ml, 0.836 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (123 mg, 73.2%) as a solid.

reactant | bis(2,2,2-trichloroethyl) (4-chloro-3-methylisoxazol-5-yl)imidodicarbonate | 0.418 mmol, 200 mg | ClC=1C(=NOC1N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl)C | C10H7Cl7N2O5
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.836 mmol, 204 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.836 mmol, 0.144 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(4-Chloro-3-methylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | ClC=1C(=NOC1NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1)C | C18H18ClN5O2S
